US03989741
A process as described in claim 2 where 4-(3,5-di-t-butyl-4-hydroxyphenyl)-butane-2-ol is esterified by reaction with methylmethacrylate in the presence of tetraisopropyl titanate to yield 4-(3,5-di-t-butyl-4-hydroxyphenyl)-2-butyl methacrylate.

reactant | 4-(3,5-di-t-butyl-4-hydroxyphenyl)-butane-2-ol | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(C)O | C18H30O2
reactant | methylmethacrylate | COC(C(=C)C)=O | C5H8O2
catalyst | tetraisopropyl titanate | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 4-(3,5-di-t-butyl-4-hydroxyphenyl)-2-butyl methacrylate | C(C(=C)C)(=O)OC(C)CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C22H34O3
